* c:\fossee\esim\library\subcircuitlibrary\switch\switch.cir

m6  net-_m5-pad1_ net-_m1-pad1_ /vdd /vdd mosfet_p
m5  net-_m5-pad1_ net-_m1-pad1_ gnd gnd mosfet_n
m2  net-_m1-pad1_ /digital_input /vdd /vdd mosfet_p
m1  net-_m1-pad1_ /digital_input gnd gnd mosfet_n
m3  /vout net-_m1-pad1_ /vrefl gnd mosfet_n
m4  /vout net-_m1-pad1_ /vrefh /vdd mosfet_p
m8  /vrefh net-_m5-pad1_ /vout gnd mosfet_n
m7  /vrefl net-_m5-pad1_ /vout /vdd mosfet_p
* u1  /vdd /digital_input /vrefh /vrefl /vout port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
