* c:\fossee\esim\library\subcircuitlibrary\switch_2n\switch_2n.cir

m6  /din_buf net-_m1-pad1_ /vdd /vdd mosfet_p
m5  /din_buf net-_m1-pad1_ gnd gnd mosfet_n
m2  net-_m1-pad1_ /din /vdd /vdd mosfet_p
m1  net-_m1-pad1_ /din gnd gnd mosfet_n
m3  /voutl net-_m1-pad1_ /vinl gnd mosfet_n
m4  /voutl net-_m1-pad1_ /vin_1 /vdd mosfet_p
m8  /vin_1 /din_buf /voutl gnd mosfet_n
m7  /vinl /din_buf /voutl /vdd mosfet_p
* u1  /vdd /din /vinl /vinh /voutl /vouth /din_buf port
m10  /vouth net-_m1-pad1_ /vinh /vdd mosfet_p
m11  /vin_2 /din_buf /vouth /vdd mosfet_p
m9  /vouth net-_m1-pad1_ /vin_2 gnd mosfet_n
m12  /vinh /din_buf /vouth gnd mosfet_n
r1  /vinh /vin_2 resistor
r2  /vin_2 /vin_1 resistor
r3  /vin_1 /vinl resistor
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
