* /home/dinesha/workarea/opencore/git/8bit_dac/schematics/switch/switch.cir

m3  /dx_buf net-_m1-pad1_ /vdd /vdd mosfet_p
m4  /dx_buf net-_m1-pad1_ gnd gnd mosfet_n
m1  net-_m1-pad1_ /dx /vdd /vdd mosfet_p
m2  net-_m1-pad1_ /dx gnd gnd mosfet_n
m6  /vout net-_m1-pad1_ /vin_2 gnd mosfet_n
m5  /vout net-_m1-pad1_ /vin_1 /vdd mosfet_p
m7  /vin_1 /dx_buf /vout gnd mosfet_n
m8  /vin_2 /dx_buf /vout /vdd mosfet_p
* u1  /vdd /dx /vin_1 /vin_2 /vout /dx_buf port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
